R1 (net354 net402) R=2.8E4
R2 ( net376 net45)  R=3.3E5
T3 ( net45 net191 0 0)  nfet  L=5.90E-6 W=1.22E-6
T4 ( net433 net191 0 0)  nfet  L=5.90E-6 W=1.22E-6
T5 ( net34 net45 net433 0)  nfet  L=5.90E-6 W=1.22E-6
T6 (net46 net80 net80 0) nfet L=8.73E-6 W=0.22E-6
T7 (net84 net179 net179 0) pfet L=3.24E-6 W=3.55E-6
C8 (net427 net315) C=5.0E-7
R9 ( net575 net359)  R=0.2E6
T10 ( net359 net359 net367 0)  nfet  L=5.90E-6 W=5.89E-6
T11 ( net367 net405 0 0)  nfet  L=5.90E-6 W=5.89E-6
T12 ( net405 net405 0 0)  nfet  L=5.90E-6 W=5.89E-6
T13 ( net241 net359 net405 0)  nfet  L=5.90E-6 W=5.89E-6
R14 (net30 net71) R=6.8E6
C15 (net99 net133) C=5.8E-13
C16 (net358 net262) C=1.2E-12
R17 ( net436 net561)  R=8.1E1
T18 ( net561 net561 net20 vdd!)  pfet  L=6.31E-6 W=3.75E-6
T19 ( net20 net213 vdd! vdd!)  pfet  L=6.31E-6 W=3.75E-6
T20 ( net213 net213 vdd! vdd!)  pfet  L=6.31E-6 W=3.75E-6
T21 ( net451 net561 net213 vdd!)  pfet  L=6.31E-6 W=3.75E-6
C22 (net445 net17) C=9.3E-13
R23 (net225 net300) R=6.8E0
T24 (net272 net55 net55 0) nfet L=8.79E-6 W=4.47E-6
R25 ( net36 net27)  R=0.6E3
T26 ( net27 net27 0 0)  nfet  L=4.19E-6 W=3.95E-6
T27 ( net235 net27 0 0)  nfet  L=4.19E-6 W=3.95E-6
T28 (net244 net249 net249 0) nfet L=1.36E-6 W=3.42E-6
R29 (net481 net88) R=5.4E6
R30 (0 net310) R=1.5E5
R31 ( net281 net107)  R=6.1E5
T32 ( net107 net467 vdd! vdd!)  pfet  L=5.48E-6 W=7.65E-6
T33 ( net469 net467 vdd! vdd!)  pfet  L=5.48E-6 W=7.65E-6
T34 ( net3 net107 net469 vdd!)  pfet  L=5.48E-6 W=7.65E-6
T35 (vdd! vdd! vdd! 0) nfet L=1.08E-6 W=1.07E-6
C36 (net103 net412) C=7.6E-7
R37 ( net306 net354)  R=6.1E4
T38 ( net354 net354 vdd! vdd!)  pfet  L=9.12E-6 W=3.44E-6
T39 ( net362 net354 vdd! vdd!)  pfet  L=9.12E-6 W=3.44E-6
C40 (net412 net425) C=8.2E-9
R41 ( net527 net204)  R=0.2E0
T42 ( net204 net228 vdd! vdd!)  pfet  L=9.34E-6 W=8.93E-6
T43 ( net565 net228 vdd! vdd!)  pfet  L=9.34E-6 W=8.93E-6
T44 ( 0 net204 net228 vdd!)  pfet  L=9.34E-6 W=8.93E-6
R45 (net408 net259) R=4.7E6
R46 ( net489 net13)  R=6.0E1
T47 ( net13 net13 vdd! vdd!)  pfet  L=4.02E-6 W=4.70E-6
T48 ( net567 net13 vdd! vdd!)  pfet  L=4.02E-6 W=4.70E-6
C49 (net153 net67) C=5.5E-6
R50 ( net254 net424)  R=10.0E5
T51 ( net424 net390 vdd! vdd!)  pfet  L=1.85E-6 W=3.53E-6
T52 ( net311 net390 vdd! vdd!)  pfet  L=1.85E-6 W=3.53E-6
T53 ( 0 net424 net390 vdd!)  pfet  L=1.85E-6 W=3.53E-6
C54 (net164 net265) C=9.5E-10
T55 ( net298 net298 0 0)  nfet  L=1.43E-6 W=5.56E-6
T56 ( net481 net298 0 0)  nfet  L=1.43E-6 W=5.56E-6
R57 ( net481 net181)  R=7.2E1
T58 (net220 net181 net181 0) pfet L=8.86E-6 W=3.99E-6
C59 (net273 net91) C=1.4E-7
C60 (net161 net62) C=8.8E-14
R61 ( net328 net392)  R=3.6E4
T62 ( net392 net560 vdd! vdd!)  pfet  L=9.80E-6 W=8.46E-6
T63 ( net169 net560 vdd! vdd!)  pfet  L=9.80E-6 W=8.46E-6
T64 ( 0 net392 net560 vdd!)  pfet  L=9.80E-6 W=8.46E-6
C65 (net19 net276) C=5.6E-7
T66 (net39 net105 net105 0) nfet L=1.62E-6 W=2.14E-6
T67 (net4 net218 net218 0) nfet L=3.33E-6 W=8.78E-6
T68 (net480 vdd! vdd! 0) pfet L=1.57E-6 W=8.87E-6
T69 (net265 net417 net417 0) pfet L=6.62E-6 W=9.20E-6
C70 (net267 vdd!) C=0.3E-8
T71 (net281 net88 net88 0) pfet L=7.71E-6 W=7.64E-6
R72 ( net168 net277)  R=7.6E4
T73 ( net277 net113 0 0)  nfet  L=1.43E-6 W=2.68E-6
T74 ( vdd! net113 0 0)  nfet  L=1.43E-6 W=2.68E-6
T75 ( vdd! net277 net113 0)  nfet  L=1.43E-6 W=2.68E-6
T76 (net11 net420 net420 0) nfet L=3.40E-6 W=2.34E-6
R77 (net338 net200) R=0.9E0
T78 ( net475 net475 0 0)  nfet  L=8.02E-6 W=3.57E-6
T79 ( net121 net475 0 0)  nfet  L=8.02E-6 W=3.57E-6
R80 ( net121 net413)  R=3.5E5
C81 (net310 net394) C=7.6E-12
T82 (net25 net498 net498 0) pfet L=8.28E-6 W=1.12E-6
T83 (net386 vdd! vdd! 0) nfet L=7.74E-6 W=3.11E-6
R84 ( net547 net347)  R=2.6E4
T85 ( net347 net486 0 0)  nfet  L=9.72E-6 W=3.64E-6
T86 ( net146 net486 0 0)  nfet  L=9.72E-6 W=3.64E-6
T87 ( vdd! net347 net486 0)  nfet  L=9.72E-6 W=3.64E-6
C88 (net291 net512) C=0.6E-11
C89 (net11 net241) C=5.0E-6
R90 ( net428 net130)  R=1.4E0
T91 ( net130 net451 0 0)  nfet  L=9.52E-6 W=0.79E-6
T92 ( net495 net451 0 0)  nfet  L=9.52E-6 W=0.79E-6
T93 ( net368 net130 net495 0)  nfet  L=9.52E-6 W=0.79E-6
T94 (net357 net463 net463 0) nfet L=1.83E-6 W=7.42E-6
R95 ( net499 net168)  R=4.6E1
T96 ( net168 net168 net565 0)  nfet  L=8.54E-6 W=2.75E-6
T97 ( net565 net274 0 0)  nfet  L=8.54E-6 W=2.75E-6
T98 ( net274 net274 0 0)  nfet  L=8.54E-6 W=2.75E-6
T99 ( net471 net168 net274 0)  nfet  L=8.54E-6 W=2.75E-6
T100 (net446 net436 net436 0) pfet L=6.82E-6 W=1.16E-6
R101 ( net251 net522)  R=8.0E3
T102 ( net522 net423 0 0)  nfet  L=5.51E-6 W=9.36E-6
T103 ( net51 net423 0 0)  nfet  L=5.51E-6 W=9.36E-6
T104 ( net452 net522 net51 0)  nfet  L=5.51E-6 W=9.36E-6
T105 (net279 net455 net455 0) pfet L=9.42E-6 W=1.05E-6
T106 (net438 net169 net169 0) pfet L=2.90E-6 W=4.67E-6
T107 ( net157 net157 0 0)  nfet  L=5.80E-6 W=6.81E-6
T108 ( net537 net157 0 0)  nfet  L=5.80E-6 W=6.81E-6
R109 ( net537 net554)  R=3.8E3
C110 (net29 net315) C=8.4E-12
T111 (net215 net126 net126 0) nfet L=5.47E-6 W=8.96E-6
C112 (vdd! net253) C=7.2E-11
T113 (net245 net116 net116 0) nfet L=7.19E-6 W=4.83E-6
R114 ( net339 net31)  R=8.4E0
T115 ( net31 net31 vdd! vdd!)  pfet  L=5.62E-6 W=5.75E-6
T116 ( net457 net31 vdd! vdd!)  pfet  L=5.62E-6 W=5.75E-6
R117 (net68 net519) R=6.4E4
T118 (net299 net307 net307 0) nfet L=7.43E-6 W=7.86E-6
R119 ( net349 net194)  R=0.4E2
T120 ( net194 net194 net173 vdd!)  pfet  L=5.88E-6 W=4.54E-6
T121 ( net173 net139 vdd! vdd!)  pfet  L=5.88E-6 W=4.54E-6
T122 ( net139 net139 vdd! vdd!)  pfet  L=5.88E-6 W=4.54E-6
T123 ( net362 net194 net139 vdd!)  pfet  L=5.88E-6 W=4.54E-6
C124 (net34 net164) C=8.6E-5
C125 (net150 net345) C=8.0E-14
R126 ( net93 net136)  R=8.4E3
T127 ( net136 net136 0 0)  nfet  L=6.49E-6 W=1.65E-6
T128 ( net237 net136 0 0)  nfet  L=6.49E-6 W=1.65E-6
T129 (net573 net21 net21 0) pfet L=6.42E-6 W=7.79E-6
R130 ( net46 net548)  R=0.7E4
T131 ( net548 net548 vdd! vdd!)  pfet  L=5.43E-6 W=4.43E-6
T132 ( net92 net548 vdd! vdd!)  pfet  L=5.43E-6 W=4.43E-6
T133 (net447 net290 net290 0) pfet L=2.07E-6 W=8.74E-6
T134 (net571 net104 net104 0) nfet L=5.90E-6 W=7.63E-6
T135 (net147 net406 net406 0) pfet L=1.79E-6 W=2.61E-6
R136 (net574 net273) R=1.5E5
R137 ( net326 net111)  R=0.7E0
T138 ( net111 net57 vdd! vdd!)  pfet  L=5.86E-6 W=9.88E-6
T139 ( net142 net57 vdd! vdd!)  pfet  L=5.86E-6 W=9.88E-6
T140 ( net513 net111 net142 vdd!)  pfet  L=5.86E-6 W=9.88E-6
R141 (net29 net551) R=9.3E4
R142 ( net69 net216)  R=2.1E5
T143 ( net216 net216 vdd! vdd!)  pfet  L=2.77E-6 W=2.54E-6
T144 ( net420 net216 vdd! vdd!)  pfet  L=2.77E-6 W=2.54E-6
T145 (net267 net276 net276 0) pfet L=1.79E-6 W=4.88E-6
T146 ( vdd! vdd! 0 0)  nfet  L=4.31E-6 W=2.52E-6
T147 ( net412 vdd! 0 0)  nfet  L=4.31E-6 W=2.52E-6
R148 ( net412 net123)  R=9.2E2
C149 (net508 net36) C=5.8E-14
R150 ( net436 net503)  R=9.8E5
T151 ( net503 net503 vdd! vdd!)  pfet  L=7.73E-6 W=1.56E-6
T152 ( vdd! net503 vdd! vdd!)  pfet  L=7.73E-6 W=1.56E-6
T153 (net25 net509 net509 0) pfet L=8.05E-6 W=3.51E-6
T154 (net442 net581 net581 0) pfet L=8.11E-6 W=4.76E-6
R155 ( net1 net485)  R=2.4E3
T156 ( net485 net149 vdd! vdd!)  pfet  L=6.20E-6 W=2.74E-6
T157 ( net409 net149 vdd! vdd!)  pfet  L=6.20E-6 W=2.74E-6
T158 ( net93 net485 net409 vdd!)  pfet  L=6.20E-6 W=2.74E-6
T159 (net281 net110 net110 0) pfet L=0.82E-6 W=7.17E-6
T160 (net310 net117 net117 0) pfet L=7.95E-6 W=2.14E-6
R161 ( net342 net252)  R=6.6E5
T162 ( net252 net252 net383 vdd!)  pfet  L=2.44E-6 W=1.64E-6
T163 ( net383 net231 vdd! vdd!)  pfet  L=2.44E-6 W=1.64E-6
T164 ( net231 net231 vdd! vdd!)  pfet  L=2.44E-6 W=1.64E-6
T165 ( net261 net252 net231 vdd!)  pfet  L=2.44E-6 W=1.64E-6
T166 (vdd! net254 net254 0) nfet L=5.52E-6 W=7.39E-6
R167 (net221 net555) R=2.4E2
T168 (net125 net77 net77 0) pfet L=4.99E-6 W=2.62E-6
C169 (net150 net496) C=6.3E-9
T170 (net587 net134 net134 0) pfet L=3.59E-6 W=9.14E-6
C171 (net543 net376) C=0.6E-6
R172 ( net201 net374)  R=3.5E5
T173 ( net374 net364 vdd! vdd!)  pfet  L=1.87E-6 W=4.17E-6
T174 ( net434 net364 vdd! vdd!)  pfet  L=1.87E-6 W=4.17E-6
T175 ( net100 net374 net434 vdd!)  pfet  L=1.87E-6 W=4.17E-6
T176 (net232 net179 net179 0) nfet L=1.01E-6 W=6.63E-6
R177 ( vdd! net577)  R=8.6E3
T178 ( net577 net577 0 0)  nfet  L=0.52E-6 W=8.53E-6
T179 ( net523 net577 0 0)  nfet  L=0.52E-6 W=8.53E-6
T180 (net187 net553 net553 0) pfet L=9.63E-6 W=2.10E-6
R181 ( net237 net450)  R=5.4E5
T182 ( net450 net450 vdd! vdd!)  pfet  L=1.47E-6 W=2.16E-6
T183 ( net167 net450 vdd! vdd!)  pfet  L=1.47E-6 W=2.16E-6
T184 (net479 net282 net282 0) pfet L=2.40E-6 W=3.76E-6
T185 (net238 net439 net439 0) pfet L=3.93E-6 W=7.88E-6
T186 (net248 net42 net42 0) pfet L=3.40E-6 W=5.13E-6
R187 ( net310 net276)  R=4.2E0
T188 ( net276 net536 0 0)  nfet  L=4.74E-6 W=7.15E-6
T189 ( net425 net536 0 0)  nfet  L=4.74E-6 W=7.15E-6
T190 ( net496 net276 net425 0)  nfet  L=4.74E-6 W=7.15E-6
C191 (net318 net145) C=3.0E-5
T192 (net403 net509 net509 0) pfet L=4.57E-6 W=1.17E-6
R193 (net344 net2) R=5.1E1
T194 (net75 net6 net6 0) pfet L=0.11E-6 W=6.76E-6
R195 (net300 net403) R=2.1E6
R196 ( net12 net5)  R=0.2E2
T197 ( net5 net510 0 0)  nfet  L=6.40E-6 W=4.13E-6
T198 ( net395 net510 0 0)  nfet  L=6.40E-6 W=4.13E-6
T199 ( vdd! net5 net510 0)  nfet  L=6.40E-6 W=4.13E-6
T200 (net563 net193 net193 0) pfet L=7.51E-6 W=8.82E-6
T201 (net156 net124 net124 0) pfet L=0.37E-6 W=8.50E-6
T202 (net455 net50 net50 0) pfet L=1.78E-6 W=8.38E-6
R203 (net523 net544) R=7.8E2
T204 (net362 net454 net454 0) nfet L=3.78E-6 W=7.02E-6
C205 (net473 net153) C=0.2E-5
R206 ( net179 net209)  R=7.3E4
T207 ( net209 net209 net381 vdd!)  pfet  L=2.23E-6 W=0.24E-6
T208 ( net381 net144 vdd! vdd!)  pfet  L=2.23E-6 W=0.24E-6
T209 ( net144 net144 vdd! vdd!)  pfet  L=2.23E-6 W=0.24E-6
T210 ( net165 net209 net144 vdd!)  pfet  L=2.23E-6 W=0.24E-6
T211 (net124 net351 net351 0) pfet L=8.19E-6 W=0.43E-6
T212 (net473 net298 net298 0) pfet L=4.54E-6 W=2.23E-6
C213 (0 net554) C=1.0E-14
R214 (vdd! net199) R=6.0E0
T215 ( net297 net297 0 0)  nfet  L=4.42E-6 W=4.82E-6
T216 ( net260 net297 0 0)  nfet  L=4.42E-6 W=4.82E-6
R217 ( net260 net92)  R=7.9E3
T218 (net208 net313 net313 0) pfet L=0.26E-6 W=9.64E-6
T219 ( net278 net278 vdd! vdd!)  pfet  L=2.06E-6 W=7.54E-6
T220 ( net335 net278 vdd! vdd!)  pfet  L=2.06E-6 W=7.54E-6
R221 ( net335 net169)  R=6.2E4
T222 (net275 net71 net71 0) pfet L=2.95E-6 W=6.83E-6
T223 (net404 vdd! vdd! 0) pfet L=3.29E-6 W=8.72E-6
R224 ( net336 net47)  R=4.2E5
T225 ( net47 net523 0 0)  nfet  L=1.05E-6 W=9.72E-6
T226 ( net77 net523 0 0)  nfet  L=1.05E-6 W=9.72E-6
T227 ( net386 net47 net77 0)  nfet  L=1.05E-6 W=9.72E-6
C228 (net515 net431) C=0.4E-6
R229 ( net407 net174)  R=7.4E0
T230 ( net174 net288 0 0)  nfet  L=5.00E-6 W=5.89E-6
T231 ( net272 net288 0 0)  nfet  L=5.00E-6 W=5.89E-6
T232 ( net331 net174 net272 0)  nfet  L=5.00E-6 W=5.89E-6
T233 (net430 net244 net244 0) pfet L=6.16E-6 W=3.35E-6
T234 ( net356 net356 0 0)  nfet  L=8.58E-6 W=1.78E-6
T235 ( net223 net356 0 0)  nfet  L=8.58E-6 W=1.78E-6
R236 ( net223 net527)  R=5.9E2
T237 (net572 net273 net273 0) pfet L=7.89E-6 W=0.78E-6
R238 ( net247 net442)  R=6.4E6
T239 ( net442 net442 0 0)  nfet  L=7.54E-6 W=3.66E-6
T240 ( net421 net442 0 0)  nfet  L=7.54E-6 W=3.66E-6
C241 (net321 net304) C=5.0E-13
R242 ( net264 net84)  R=0.6E5
T243 ( net84 net115 vdd! vdd!)  pfet  L=6.52E-6 W=3.59E-6
T244 ( net358 net115 vdd! vdd!)  pfet  L=6.52E-6 W=3.59E-6
T245 ( 0 net84 net115 vdd!)  pfet  L=6.52E-6 W=3.59E-6
C246 (net229 vdd!) C=4.1E-6
R247 (net304 net430) R=6.7E3
T248 ( net123 net123 vdd! vdd!)  pfet  L=5.01E-6 W=1.00E-6
T249 ( net156 net123 vdd! vdd!)  pfet  L=5.01E-6 W=1.00E-6
R250 ( net156 net297)  R=3.4E2
T251 (net313 net95 net95 0) pfet L=3.33E-6 W=8.99E-6
T252 (net148 net489 net489 0) nfet L=4.38E-6 W=1.90E-6
T253 ( net70 net70 0 0)  nfet  L=9.63E-6 W=0.91E-6
T254 ( net241 net70 0 0)  nfet  L=9.63E-6 W=0.91E-6
R255 ( net241 net164)  R=5.6E0
C256 (net346 vdd!) C=1.9E-10
C257 (net410 0) C=5.8E-5
R258 ( net206 net25)  R=2.6E4
T259 ( net25 net25 net346 0)  nfet  L=0.47E-6 W=4.92E-6
T260 ( net346 net500 0 0)  nfet  L=0.47E-6 W=4.92E-6
T261 ( net500 net500 0 0)  nfet  L=0.47E-6 W=4.92E-6
T262 ( net141 net25 net500 0)  nfet  L=0.47E-6 W=4.92E-6
R263 (net420 vdd!) R=2.4E0
R264 ( net397 net137)  R=6.6E1
T265 ( net137 net70 vdd! vdd!)  pfet  L=6.22E-6 W=4.60E-6
T266 ( net527 net70 vdd! vdd!)  pfet  L=6.22E-6 W=4.60E-6
T267 ( 0 net137 net70 vdd!)  pfet  L=6.22E-6 W=4.60E-6
C268 (net504 net515) C=4.6E-9
R269 (net157 net244) R=4.1E2
R270 ( net33 net508)  R=2.3E2
T271 ( net508 net508 net134 0)  nfet  L=0.35E-6 W=7.34E-6
T272 ( net134 net473 0 0)  nfet  L=0.35E-6 W=7.34E-6
T273 ( net473 net473 0 0)  nfet  L=0.35E-6 W=7.34E-6
T274 ( net215 net508 net473 0)  nfet  L=0.35E-6 W=7.34E-6
T275 (net363 net300 net300 0) pfet L=3.69E-6 W=6.54E-6
R276 ( net2 net103)  R=8.2E4
T277 ( net103 net279 0 0)  nfet  L=8.59E-6 W=9.94E-6
T278 ( net344 net279 0 0)  nfet  L=8.59E-6 W=9.94E-6
T279 ( net22 net103 net344 0)  nfet  L=8.59E-6 W=9.94E-6
T280 (net33 net176 net176 0) pfet L=5.83E-6 W=6.15E-6
T281 ( net365 net365 vdd! vdd!)  pfet  L=3.87E-6 W=3.95E-6
T282 ( net575 net365 vdd! vdd!)  pfet  L=3.87E-6 W=3.95E-6
R283 ( net575 net529)  R=2.4E4
R284 (net238 net368) R=3.8E6
R285 (net87 net43) R=5.9E6
C286 (net574 net315) C=8.6E-5
T287 ( net454 net454 vdd! vdd!)  pfet  L=5.32E-6 W=8.35E-6
T288 ( net164 net454 vdd! vdd!)  pfet  L=5.32E-6 W=8.35E-6
R289 ( net164 net501)  R=8.3E3
C290 (net552 net376) C=9.6E-13
T291 ( net402 net402 vdd! vdd!)  pfet  L=4.70E-6 W=5.73E-6
T292 ( net251 net402 vdd! vdd!)  pfet  L=4.70E-6 W=5.73E-6
R293 ( net251 net219)  R=7.9E3
T294 (net138 0 0 0) pfet L=9.45E-6 W=7.96E-6
T295 (net56 net19 net19 0) nfet L=5.69E-6 W=4.71E-6
C296 (net222 net527) C=7.9E-7
C297 (net102 net159) C=6.5E-10
R298 (net305 net184) R=9.4E5
T299 (net129 net234 net234 0) nfet L=5.32E-6 W=1.98E-6
T300 (net148 net316 net316 0) nfet L=9.98E-6 W=1.15E-6
T301 (net569 net511 net511 0) pfet L=2.78E-6 W=2.32E-6
R302 (net519 net3) R=5.0E2
T303 (0 net86 net86 0) pfet L=5.64E-6 W=8.44E-6
R304 (net353 net558) R=3.6E5
T305 (net309 net110 net110 0) pfet L=1.43E-6 W=1.39E-6
T306 (0 net342 net342 0) nfet L=5.15E-6 W=1.54E-6
C307 (net414 net220) C=3.7E-9
T308 (net379 net68 net68 0) nfet L=2.15E-6 W=8.85E-6
T309 (0 net153 net153 0) pfet L=3.55E-6 W=5.78E-6
R310 (net67 vdd!) R=1.8E4
T311 (net148 net463 net463 0) nfet L=1.36E-6 W=9.43E-6
R312 (net351 net39) R=1.8E0
T313 (net568 0 0 0) pfet L=5.28E-6 W=9.27E-6
R314 (net176 net198) R=2.6E5
R315 (net317 net308) R=3.8E0
T316 (net40 net167 net167 0) pfet L=8.19E-6 W=0.68E-6
T317 (net349 net563 net563 0) nfet L=4.43E-6 W=6.23E-6
T318 (net571 net98 net98 0) pfet L=5.21E-6 W=7.76E-6
T319 (net538 net449 net449 0) nfet L=5.10E-6 W=3.30E-6
T320 (net196 net312 net312 0) pfet L=4.07E-6 W=2.98E-6
T321 (net58 net123 net123 0) nfet L=6.46E-6 W=0.70E-6
C322 (net214 net150) C=1.5E-14
T323 (net112 net307 net307 0) nfet L=5.72E-6 W=5.16E-6
T324 (net454 net415 net415 0) nfet L=0.97E-6 W=1.20E-6
T325 (net556 net254 net254 0) pfet L=5.96E-6 W=5.21E-6
T326 (vdd! net520 net520 0) nfet L=8.80E-6 W=9.11E-6
C327 (net138 net545) C=4.5E-12
C328 (net470 net375) C=4.1E-8
C329 (net334 net482) C=6.8E-10
T330 (0 net243 net243 0) nfet L=4.79E-6 W=2.04E-6
C331 (net9 net308) C=0.1E-12
T332 (net271 net563 net563 0) pfet L=4.54E-6 W=7.28E-6
T333 (net203 net114 net114 0) pfet L=7.66E-6 W=9.33E-6
R334 (net402 net336) R=2.2E2
T335 (net457 vdd! vdd! 0) pfet L=5.70E-6 W=7.35E-6
C336 (net402 net311) C=1.8E-14
R337 (net249 net365) R=9.1E4
T338 (vdd! net154 net154 0) pfet L=3.13E-6 W=4.22E-6
R339 (net366 net24) R=4.2E2
T340 (net488 net224 net224 0) pfet L=1.72E-6 W=7.93E-6
R341 (net494 vdd!) R=4.7E2
C342 (net549 net310) C=1.5E-6
R343 (net122 net580) R=5.9E3
C344 (net494 net440) C=1.4E-11
C345 (net352 net236) C=5.8E-12
R346 (net427 net105) R=1.9E4
T347 (net430 net549 net549 0) nfet L=2.05E-6 W=0.98E-6
C348 (net85 net126) C=8.4E-7
T349 (net255 vdd! vdd! 0) nfet L=6.00E-6 W=3.51E-6
T350 (net68 net440 net440 0) nfet L=6.63E-6 W=7.53E-6
T351 (net171 net572 net572 0) pfet L=5.52E-6 W=7.93E-6
T352 (net160 net551 net551 0) nfet L=1.22E-6 W=9.14E-6
C353 (net373 net401) C=7.3E-12
R354 (0 net515) R=5.6E2
C355 (net244 net15) C=2.3E-14
T356 (net255 net26 net26 0) pfet L=8.73E-6 W=3.03E-6
T357 (net491 net155 net155 0) nfet L=7.96E-6 W=1.16E-6
C358 (net188 0) C=0.8E-8
R359 (net528 net184) R=1.3E1
C360 (net206 net446) C=2.0E-9
R361 (net449 net443) R=1.8E5
C362 (net416 net453) C=9.7E-11
T363 (net297 0 0 0) nfet L=4.89E-6 W=4.04E-6
T364 (net295 net2 net2 0) nfet L=0.25E-6 W=1.62E-6
C365 (0 net482) C=8.7E-10
C366 (net308 net351) C=7.6E-8
R367 (net532 net524) R=1.1E1
T368 (net312 net162 net162 0) pfet L=8.67E-6 W=6.60E-6
T369 (net306 net14 net14 0) nfet L=4.09E-6 W=6.98E-6
C370 (net521 net125) C=0.8E-8
C371 (net155 vdd!) C=8.9E-13
R372 (net261 net307) R=2.6E2
T373 (net225 net489 net489 0) pfet L=8.98E-6 W=0.14E-6
C374 (net125 net259) C=8.7E-5
R375 (net369 net581) R=5.1E1
T376 (net351 net556 net556 0) nfet L=4.99E-6 W=1.74E-6
R377 (vdd! net118) R=2.5E1
T378 (net199 net355 net355 0) nfet L=8.26E-6 W=2.78E-6
C379 (net87 net188) C=7.8E-5
T380 (net232 net427 net427 0) nfet L=0.46E-6 W=1.61E-6
T381 (net176 vdd! vdd! 0) pfet L=6.75E-6 W=1.92E-6
T382 (net184 net419 net419 0) nfet L=5.98E-6 W=3.27E-6
R383 (net407 net36) R=5.6E3
R384 (net497 net284) R=1.2E6
R385 (net411 net465) R=9.6E5
T386 (net99 net275 net275 0) pfet L=8.61E-6 W=8.45E-6
T387 (net99 net511 net511 0) nfet L=0.80E-6 W=6.87E-6
T388 (net222 net332 net332 0) pfet L=0.51E-6 W=5.54E-6
R389 (net579 net235) R=2.7E3
C390 (net547 vdd!) C=10.0E-8
C391 (net526 net66) C=2.6E-12
R392 (net18 net233) R=9.7E4
C393 (net582 net18) C=1.7E-8
R394 (net199 net259) R=3.7E4
T395 (vdd! net123 net123 0) nfet L=4.11E-6 W=3.97E-6
T396 (net32 net483 net483 0) nfet L=2.66E-6 W=5.69E-6
R397 (net30 net38) R=3.5E1
R398 (net179 net128) R=2.8E3
C399 (net234 net259) C=0.6E-11
C400 (net119 net406) C=7.5E-10
R401 (0 net566) R=6.1E4
C402 (net570 net386) C=5.3E-12
T403 (net360 0 0 0) pfet L=4.86E-6 W=9.79E-6
T404 (net147 net249 net249 0) nfet L=5.28E-6 W=4.56E-6
T405 (net62 net493 net493 0) pfet L=0.13E-6 W=0.69E-6
R406 (net40 net447) R=7.9E3
C407 (net393 vdd!) C=5.4E-6
R408 (net336 net416) R=3.6E2
C409 (net50 net206) C=3.0E-13
R410 (net86 net132) R=1.6E3
R411 (net330 net208) R=1.0E2
T412 (net449 net184 net184 0) pfet L=3.84E-6 W=8.39E-6
R413 (net196 net368) R=6.9E1
R414 (net449 net175) R=9.1E3
C415 (net340 net19) C=7.5E-7
T416 (net582 net493 net493 0) nfet L=4.22E-6 W=8.75E-6
R417 (net259 net124) R=7.3E3
C418 (net105 net362) C=0.6E-12
T419 (net482 net325 net325 0) pfet L=3.41E-6 W=0.78E-6
C420 (net351 net193) C=3.6E-14
C421 (net384 net504) C=2.5E-13
T422 (net316 net207 net207 0) nfet L=8.23E-6 W=4.44E-6
T423 (net517 net461 net461 0) nfet L=0.90E-6 W=5.65E-6
T424 (net446 vdd! vdd! 0) nfet L=8.57E-6 W=5.07E-6
T425 (net2 net313 net313 0) pfet L=9.24E-6 W=9.75E-6
C426 (net566 net579) C=1.6E-11
R427 (net85 net380) R=5.8E2
T428 (net11 vdd! vdd! 0) nfet L=5.09E-6 W=2.57E-6
R429 (net302 net195) R=4.5E3
R430 (vdd! net181) R=1.6E4
C431 (net398 net158) C=4.4E-9
T432 (net148 net528 net528 0) nfet L=4.66E-6 W=2.17E-6
T433 (net550 net48 net48 0) pfet L=3.58E-6 W=3.99E-6
R434 (net188 net185) R=1.0E3
T435 (net183 vdd! vdd! 0) nfet L=9.00E-6 W=9.83E-6
C436 (net338 net42) C=9.3E-11
T437 (net266 net355 net355 0) pfet L=7.25E-6 W=8.00E-6
R438 (net63 net304) R=1.7E3
T439 (net519 net16 net16 0) pfet L=1.24E-6 W=6.69E-6
R440 (net289 net205) R=1.5E2
R441 (net307 net161) R=4.1E2
T442 (net224 net334 net334 0) nfet L=4.98E-6 W=5.99E-6
R443 (net266 net64) R=1.3E6
T444 (net430 vdd! vdd! 0) nfet L=1.38E-6 W=7.45E-6
T445 (net182 net445 net445 0) nfet L=0.86E-6 W=7.96E-6
R446 (net123 net348) R=5.4E0
T447 (net302 net580 net580 0) nfet L=9.20E-6 W=8.93E-6
C448 (net143 net465) C=7.8E-14
T449 (net328 0 0 0) nfet L=4.31E-6 W=3.21E-6
C450 (net534 net361) C=2.6E-13
C451 (net171 net123) C=4.6E-9
T452 (net131 net154 net154 0) pfet L=5.25E-6 W=1.17E-6
C453 (net147 net18) C=9.7E-10
C454 (net198 net454) C=2.0E-12
R455 (net218 net336) R=6.6E0
T456 (0 net281 net281 0) pfet L=3.41E-6 W=8.19E-6
T457 (net53 net307 net307 0) nfet L=7.17E-6 W=5.70E-6
T458 (net376 net538 net538 0) pfet L=9.22E-6 W=8.80E-6
C459 (net339 net236) C=6.2E-10
T460 (net475 net337 net337 0) nfet L=5.45E-6 W=7.83E-6
C461 (net81 net539) C=4.9E-14
T462 (net91 net332 net332 0) nfet L=6.25E-6 W=6.79E-6
R463 (net441 net578) R=4.4E2
T464 (net23 net399 net399 0) nfet L=5.73E-6 W=2.90E-6
C465 (0 net281) C=7.3E-6
R466 (net350 0) R=2.7E6
C467 (net551 net325) C=3.0E-5
R468 (net557 net193) R=6.9E5
T469 (net154 net507 net507 0) pfet L=9.28E-6 W=4.23E-6
R470 (net498 net518) R=4.1E2
C471 (net114 net379) C=5.4E-10
C472 (net133 net172) C=5.0E-11
T473 (net203 net193 net193 0) pfet L=9.97E-6 W=3.31E-6
T474 (net333 net256 net256 0) nfet L=9.26E-6 W=7.02E-6
T475 (net218 net269 net269 0) pfet L=9.54E-6 W=9.44E-6
C476 (net429 0) C=0.4E-13
C477 (net307 net232) C=8.3E-8
R478 (net583 net519) R=7.6E1
T479 (net468 net408 net408 0) nfet L=2.38E-6 W=8.84E-6
T480 (net511 net222 net222 0) pfet L=5.17E-6 W=5.95E-6
T481 (net283 net366 net366 0) nfet L=6.04E-6 W=5.80E-6
T482 (net234 net396 net396 0) nfet L=2.85E-6 W=0.88E-6
R483 (net98 net186) R=5.0E2
R484 (net167 net38) R=2.1E3
R485 (net185 net157) R=10.0E6
R486 (net572 net459) R=7.1E5
T487 (net236 0 0 0) pfet L=3.72E-6 W=8.31E-6
C488 (0 vdd!) C=1.8E-8
T489 (net185 net88 net88 0) pfet L=2.74E-6 W=4.27E-6
T490 (vdd! net349 net349 0) pfet L=6.25E-6 W=6.36E-6
T491 (net492 net437 net437 0) pfet L=6.50E-6 W=4.36E-6
R492 (net375 net36) R=5.6E4
T493 (net534 net298 net298 0) nfet L=9.00E-6 W=0.68E-6
R494 (net14 net399) R=1.3E2
R495 (net512 net105) R=3.2E1
C496 (net93 net550) C=3.4E-13
R497 (net160 net161) R=4.8E5
T498 (net275 net39 net39 0) pfet L=7.87E-6 W=8.84E-6
T499 (net128 net543 net543 0) nfet L=8.86E-6 W=5.93E-6
R500 (net326 net395) R=4.8E6
T501 (net530 net268 net268 0) pfet L=5.85E-6 W=8.85E-6
T502 (net145 net461 net461 0) pfet L=7.90E-6 W=1.78E-6
T503 (net281 net256 net256 0) pfet L=8.24E-6 W=9.04E-6
R504 (net234 net68) R=1.3E4
R505 (net463 net449) R=1.4E0
T506 (net512 net232 net232 0) pfet L=2.39E-6 W=2.99E-6
R507 (net59 0) R=2.8E4
R508 (net6 net582) R=3.6E4
T509 (net93 net48 net48 0) pfet L=6.77E-6 W=0.30E-6
T510 (0 net377 net377 0) pfet L=3.45E-6 W=8.98E-6
T511 (net146 net210 net210 0) nfet L=3.23E-6 W=6.06E-6
T512 (net387 net443 net443 0) pfet L=3.57E-6 W=3.55E-6
C513 (vdd! net353) C=6.4E-7
R514 (net207 net337) R=4.8E1
T515 (net75 net441 net441 0) nfet L=6.48E-6 W=8.04E-6
C516 (net397 net14) C=3.8E-12
R517 (net436 net370) R=7.6E4
T518 (net494 net578 net578 0) nfet L=5.36E-6 W=8.08E-6
C519 (net350 net292) C=3.3E-11
C520 (vdd! net143) C=9.8E-5
R521 (net112 net363) R=4.8E1
T522 (net235 net318 net318 0) pfet L=0.94E-6 W=9.43E-6
T523 (net517 net418 net418 0) nfet L=5.02E-6 W=6.81E-6

